.SUBCKT LT1468N    1   2   3   4   5
*
* input protection
RIP1 1 111 1.0000e+002
RIP2 2 112 1.0000e+002
DIP1 111 112 DX
DIP2 112 111 DX
*
* input stage
CIN 111 112 4.0000e-012
GRIN 111 112 111 112 6.5453e-006
Q1 11 112 13 Q1
Q2 12 113 14 Q2
RC1 4 11 1.1776e+003
RC2 4 12 1.1776e+003
RE1 10 13 1.0000e-001
RE2 10 14 1.0000e-001
C1 11 12 1.3516e-012
IEE 3 10 DC 1.6984e-003
GSR 3 10 12 11 1.1546e-004
D1 10 3 DX
GA 60 99 11 12 8.4921e-004
*
* noise sources
FRI1 99 1 VRI1 1
VRI1 101 0 DC 0
RRI1 101 0 4.5771e+004
FRI2 99 2 VRI2 1
VRI2 201 0 DC 0
RRI2 201 0 4.5771e+004
GR 99 60 605 606 7.5396e+000
IR1 0 605 DC 1
IR2 0 606 DC 1
DR1 605 0 DR
DR2 606 0 DR
*
* common mode rejection
GCM1 99 20 POLY(2) 111 99 112 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 7.2343e-002
ECM 113 111 20 99 3.1623e-006
*
* frequency shaper
RP1 601 99 4.0000e+003
CP1 60 601 5.6841e-012
RP11 60 99 1.0000e+004
GP1 99 6 60 99 1.0000e-004
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 6.7241e-011
GB 7 99 6 99 5.2809e+003
R01 7 99 2.4900e+001
R02 7 50 1.0000e-001
R03 50 5 2.5000e+001
R04 5 99 5.9379e+009
VC 53 50 DC 9.9200e-001
VE 54 50 DC -1.5920e+000
DC1 53 55 DVC
DC2 55 56 DVC
DE1 57 54 DVC
DE2 58 57 DVC
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 2.5000e+002
ECLN 92 0 7 50 2.5000e+002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 1.7189e+002
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC 2.2016e-003
*
GV 31 0 7 50 1.0000e+001
DP1 3 31 DX
DP2 33 4 DX
RGV 32 33 9.7531
EGV 31 32 POLY(1) 3 4 -0.8 1.0
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-2.1 N=0.1 EG=0.1)
.MODEL Q1 PNP (IS=1.0006e-015 BF=89390.9 XTB=-2.0972e+000 XTI=3.00344e+000 KF=1.5615e-014)
.MODEL Q2 PNP (IS=9.9938e-016 BF=1698427.3 XTB=-1.0572e+001 XTI=2.99656e+000 KF=1.5615e-014)
.MODEL DR D (IS=8.2592e-016 KF=8.9781e-018 RS=0 XTI=0)
.ENDS LT1468N
