.SUBCKT LT1168_IN 1 2 3 4 5
*
* input stage
GRIN 1 2 1 2 1.0000e-009
M1 11 2 10 10 M1 L=100U W=100U
M2 12 111 10 10 M2 L=100U W=100U
RD1 3 11 ROVD1 1.1429e+004
RD2 3 12 ROVD2 1.1429e+004
DI1 111 3 DI1
DI2 2 3 DI2
C1 11 12 3.4815e-012
IEE 10 4 DC 1.7500e-004
GA 60 99 11 12 8.7500e-005
*
* noise sources
IR1 0 101 DC 1
IR2 0 102 DC 1
DR1 101 0 DRI
DR2 102 0 DRI
GRI1 99 1 101 102 1.4490e-003
IR3 0 103 DC 1
IR4 0 104 DC 1
DR3 103 0 DRI
DR4 104 0 DRI
GRI2 99 2 103 104 1.4490e-003
RRu 605 0 2.655e+001
VRu 605 0 DC 0
FRu 99 60 VRu 1
*
* common mode rejection
GCM1 99 20 POLY(2) 1 99 2 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 3.1831e+000
ECM 111 1 20 99 5.6234e-007
*
* frequency shaper
RP1 601 99 3.3333e+003
CP1 60 601 5.9683e-011
RP11 60 99 1.0000e+004
GP1 99 61 60 99 1.0000e-004
RP2 611 99 1.6667e+004
LP2 61 611 3.3157e-003
RP22 61 99 2.5000e+004
GP2 99 6 61 99 1.0000e-004
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 3.5000e-010
GB 7 99 6 99 5.9163e+003
R01 7 99 5.4900e+001
R02 7 50 1.0000e-001
R03 50 5 6.5000e+001
R04 5 99 5.9379e+009
VC 53 50 DC 1.0920e+000
VE 54 50 DC -7.9200e-001
DC1 53 55 DVC
DC2 55 56 DVC
DE1 57 54 DVC
DE2 58 57 DVC
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-2.1 N=0.1 EG=0.1)
.MODEL M1 NMOS (LEVEL=3 KP=5.4164e-002 VTO=1.000004e+000 KF=5.1722e-028)
.MODEL M2 NMOS (LEVEL=3 KP=5.4164e-002 VTO=9.999960e-001 KF=5.1722e-028)
.MODEL ROVD1 RES (TC1=-4.7965e-007)
.MODEL ROVD2 RES (TC1=4.7965e-007)
.MODEL DI1 D (IS=1.0500e-011 EG=-3.4717e-001 XTI=3.0000e+000)
.MODEL DI2 D (IS=9.5000e-012 EG=-4.5612e-001 XTI=3.0000e+000)
.MODEL DRI D (IS=8.2592e-016 KF=1.7641e-017 RS=0 XTI=0)
*
.ENDS LT1168_IN
