.SUBCKT LT1398_MD  1 2 3 4 5 6
*
* input stage
RINP 1 99 1.0000e+009
CINP 1 99 2.0000e-012
IBP 301 303 DC 2.0182e-005
RBP 301 303 1E5 TC=3.6036e-003
VBP 303 0 DC 1.0182e+000
GBP 1 99 POLY(2) 301 0 1 0 0 1.0E-5 1.0000e-006
IBN 302 304 DC 2.0182e-005
RBN 302 304 1E5 TC=3.6036e-003
VBN 304 0 DC 1.0182e+000
GBN 2 99 POLY(2) 302 0 2 0 0 1.0E-5 1.0000e-005
RINN 14 99 1.0000e+009
CINN 2 99 1.0000e-012
GA1 99 11 1 99 2.0408e-002
GA2 11 99 11 99 2.0408e-002
VSENS 11 16 DC 0.0
LINN 16 14 2.5000e-008
RSW1 2 14 1.0000e+009
GSW1 2 14 POLY(2) 812 99 2 14 0 0 6.3246e-006 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 2.56e-6
GSW2 59 99 POLY(2) 806 99 59 99 0 0 1e-12 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 2.56e-6
IOFF 501 0 DC 1.5000e-003
ROFF 501 0 1 TC=1.0000e-002
GOFF 59 99 501 0 2.0408e-002
FA 99 59 VSENS 1.0
*
* noise sources
IR1 0 101 DC 1
IR2 0 102 DC 1
DR1 101 0 DRI1
DR2 102 0 DRI1
GR1 99 1 101 102 2.8980e-001
IR3 0 103 DC 1
IR4 0 104 DC 1
DR3 103 0 DRI2
DR4 104 0 DRI2
GR2 99 2 103 104 1.2075e+000
IR5 0 601 DC 1
IR6 0 602 DC 1
DR5 601 0 DRI3
DR6 602 0 DRI3
GR3 59 99 601 602 4.3470e+000
*
* common mode rejection
GCM1 99 11 POLY(2) 2 0 1 0 0 1.5621e-005 1.5621e-005
*
* frequency shaper
RP0 59 99 1.0000e+003
CP0 59 99 3.1553e-013
GP0 99 60 59 99 1.0000e-003
RR1 660 60 1.0000e-003
*
* slew rate limiter
RSR 660 66 1.0000e-001
ESRP 96 0 660 66 5.3155e+003
ESRN 97 0 660 66 5.3155e+003
DSRP 96 95 DX
DSRN 95 97 DX
VSR 95 0 DC 0
FSR 660 99 VSR 1.0000e-002
*
* transimpedance stage and dominant pole
RTR 66 99 1.2500e+005
C1 66 99 1.6461e-012
DC 66 53 DX
DE 54 66 DX
VC 3 53 DC 1.5400e+000
VE 54 4 DC 1.5400e+000
*
* output stage
GB 99 7 66 99 4.1841e-002
ROUT 7 99 2.3900e+001
FB 7 99 VSCL 1.8347e-003
VSCL 90 0 DC 0
DLP 91 90 DX
DLN 90 92 DX
ESCLP 91 0 7 51 1.2500e+002
ESCLN 92 0 7 51 1.2500e+002
R01S 7 51 1.0000e-001
GSW3 51 5 POLY(2) 812 99 51 5 0 0 1e-9 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 2.56e-6
CGSW3 51 5 8.5000e-012
R0P 5 0 5.9379e+008
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
GIP 3 4 POLY(1) 99 803 3.8482e-005 8.9000e-004
RP 3 4 1.0000e+006
GV 31 0 7 51 1.0000e+001
DP1 3 31 DX
DP2 33 4 DX
RGV 32 33 9.7531
EGV 31 32 POLY(1) 3 4 -0.8 1.0
*
* shutdown stage
RDIS1 3 6 1.6667e+005
CDIS1 6 99 3.0000e-012
GREF 99 801 POLY(2) 3 4 803 99 0.0 2.0000e-004 0.0 0.0 -8.0000e-006
RREF 801 99 1.0000e+003
GDIS 99 803 6 801 1.0000e-003
RDIS3 803 99 1.0000e+005
VDIS2 804 99 DC -7.5600e-001
VDIS3 805 99 DC -4.2450e+000
DDIS2 803 804 DX
DDIS3 805 803 DX
CDIS2 803 99 3.0000e-012
EDIS 810 99 803 99 1.0000e+000
RDIS5 810 812 3.1614e+001
RDIS6 812 811 5.5233e+001
DDIS4 811 810 DX
CDIS3 812 99 1.0000e-009
GDIS2 99 806 POLY(1) 812 99 -5.0E-3 -1.0E-3
RDIS4 806 99 1.0000e+003
CDIS4 806 99 1.0053e-012
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL DRI1 D (IS= 8.2592e-016 KF= 9.6222e-015 RS=0 XTI=0)
.MODEL DRI2 D (IS= 8.2592e-016 KF= 1.2830e-014 RS=0 XTI=0)
.MODEL DRI3 D (IS= 8.2592e-016 KF= 9.6222e-015 RS=0 XTI=0)
.ENDS LT1398_MD
